US06255305B1
To 1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazole-2-carboxaldehyde (prepared according to the procedure of Whitten, Matthews and McCarthy, J. Org. Chem., 1986, 51, 1891) (7.45 g) in methanol (30 ml) was added sodium borohydride (0.42 g) at 0° C. with stirring. The solution was stirred at 0° C. for 40 min. Saturated sodium chloride solution (15 ml) was added, and the mixture stirred at room temperature for 15 min. The methanol was removed in vacuo, and the resultant aqueous solution was washed with ethyl acetate (3×50 ml). The organic layers were combined, dried (sodium sulfate) and concentrated in vacuo to yield an oil, which crystallised at 0° C. The solid was washed and recrystallised from hexane to yield 1-[[2-(trimethylsilyl)ethoxy]methyl]-2-(hydroxymethyl)imidazole as colourless crystals (1.99 g). 1H NMR (250 MHz, CDCl3) δ 0.00 (9H, s), 0.93 (2H, t, J=8.2 Hz), 3.54 (2H, t, J=8.2 Hz), 4.73 (2H, s), 4.77 (2H, br s), 5.39 (2H, s), 6.94 (1H, d, J=1.4 Hz), 7.00 (1H, d, J=1.4 Hz); MS (ES+) m/e 229 [MH]+.

reactant | 1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazole-2-carboxaldehyde | C[Si](CCOCN1C(=NC=C1)C=O)(C)C | C10H18N2O2Si
reactant | sodium borohydride | 0.42 g | [BH4-].[Na+]
reactant | sodium chloride | 15 ml | [Cl-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-[[2-(trimethylsilyl)ethoxy]methyl]-2-(hydroxymethyl)imidazole | 1.99 g | C[Si](CCOCN1C(=NC=C1)CO)(C)C | C10H20N2O2Si
